US05140039
7-Methoxy-4-cyano chrom-3-ene
7-Methoxy-4-chromanone (7 g) was added to trimethylsilyl cyanide (TMSCN) (7 ml), CH3CN (10 ml) and a catalytic amount of ZnI2 and refluxed for 2 hrs. The reaction was cooled, evaporated to dryness, then isopropyl alcohol saturated with HCl(g) (100 ml) was added and this solution refluxed 2 hrs. The reaction was cooled, evaporated to dryness, and saturated aqueous NaCl added. This was then extracted with CH2Cl2, the organic layer separated, dried (Na2SO4), filtered and evaporated affording 7.1 of product. IR(CHCl3): 2218 cm-1.

reactant | 7-Methoxy-4-chromanone | 7 g | COC1=CC=C2C(CCOC2=C1)=O | C10H10O3
reactant | trimethylsilyl cyanide | 7 ml | C[Si](C)(C)C#N | C4H9NSi
catalyst | ZnI2 | [Zn+2].[I-].[I-]
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 7-Methoxy-4-cyano chrom-3-ene | COC1=CC=C2C(=CCOC2=C1)C#N | C11H9NO2
